US05374636
(1RS,2RS)-2-Carbomethoxy-3-tropanone.
To a suspension of sodium hydride (3.2 g 80%, 107 mmol, prewashed in cyclohexane) and dimethylcarbonate (9.13 ml, 108 mmol) in absolute cyclohexane heated to reflux temperature, a solution of (±)-3-tropanone (6.9 g, 50 mmol) in 50 ml absolute cyclohexane was added over 15 minutes. No hydrogen evolution was apparent so 0.2 ml methanol was added. The reaction mixture was stirred over night at reflux temperature and after cooling to ambient temperature 75 ml water was carefully added. To the water phase was added 40 g ammonium chloride and the resulting mixture was extracted 8 times with methylene chloride. The combined methylene chloride organic phases were dried and concentrated in vacuo followed by column chromatography of the crude product using methylene chloride with increasing amounts (up to 10%) of methanol as eluent. The fractions containing the product were concentrated in vacuo and the resulting oil was subjected to kugelrohr destillation (1 mbar, 120° C., yielding the title compound as orange crystals, m.p. 104°-107° C.

reactant | sodium hydride | 107 mmol, 3.2 g | [H-].[Na+]
reactant | dimethylcarbonate | 108 mmol, 9.13 ml | COC(OC)=O | C3H6O3
reactant | (±)-3-tropanone | 50 mmol, 6.9 g | [C@H]12CC(C[C@H](CC1)N2C)=O | C8H13NO
reactant | hydrogen | [H][H] | H2
reactant | ammonium chloride | 40 g | [Cl-].[NH4+]
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | water | O | H2O
solvent | water | 75 ml | O | H2O
solvent | methanol | 0.2 ml | CO | CH4O
product | (1RS,2RS)-2-Carbomethoxy-3-tropanone | C(=O)(OC)C1C2CC[C@@H](CC1=O)N2C | C10H15NO3
